US04278798
Preparation of 1-ethyl-1,4-dihydro-6-(2-naphthyl)-4-oxonicotinic acid
9 G. of methyl 5-(2-naphthyl)-3-oxo-4-pentenoate and 4.7 g. of dimethylformamide dimethylacetal were dissolved in 100 ml. of toluene and stirred at 60° C. for 22 hours. After cooling, the reaction mixture was evaporated. There were obtained about 10 g. of a dark red, viscous oil, which was treated with a solution of 100 g. of ethylamine in 1 l. of toluene. The reaction mixture was stirred at room temperature for 20 hours, evaporated and the crude product was purified by column chromatography [silica gel, methylene chloride/methanol (19:1, v/v)]. After recrystallization from ether/pentane, there were obtained 6.0 g. (55%) of methyl 2-[(ethylamino)-methylene]-5-(2-naphthyl)-3-oxo-4-pentenoate in the form of light yellowish crystals, mp 80°-82° C.

reactant | methyl 5-(2-naphthyl)-3-oxo-4-pentenoate | C1=C(C=CC2=CC=CC=C12)C=CC(CC(=O)OC)=O | C16H14O3
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
reactant | ethylamine | C(C)N | C2H7N
reactant | methyl 2-[(ethylamino)-methylene]-5-(2-naphthyl)-3-oxo-4-pentenoate | C(C)NC=C(C(=O)OC)C(C=CC1=CC2=CC=CC=C2C=C1)=O | C19H19NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-ethyl-1,4-dihydro-6-(2-naphthyl)-4-oxonicotinic acid | C(C)N1C=C(C(=O)O)C(C=C1C1=CC2=CC=CC=C2C=C1)=O | C18H15NO3
